US05091387
1'-((4-Bromophenyl)SULFONYL)SPIRO(1H-INDENE-1,4'-PIPERIDINE)
Spiro(1H-indene-1,4'-piperidine) (15 mg, 81.1 μmol) and p-bromobenzenesulfonyl chloride (21 mg, 81.1 μmol) were combined in CH2Cl2 and treated with triethylamine (2 drops). The mixture was stirred at ambient temperature for 15 min, then poured onto a silica gel column and eluted with 1:1 CH2Cl2 : hexane. The product fractions were combined and evaporated to dryness in vacuo to provide the title compound as a solid which was dried in vacuo overnight at ambient temperature: (m.p. 177°-178°).

reactant | Spiro(1H-indene-1,4'-piperidine) | 81.1 μmol, 15 mg | N1CCC2(CC1)C=CC1=CC=CC=C12 | C13H15N
reactant | p-bromobenzenesulfonyl chloride | 81.1 μmol, 21 mg | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | 1'-((4-Bromophenyl)SULFONYL)SPIRO(1H-INDENE-1,4'-PIPERIDINE) | BrC1=CC=C(C=C1)S(=O)(=O)N1CCC2(CC1)C=CC1=CC=CC=C12 | C19H18BrNO2S
